US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-methyl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid Benzyl Ester
A mixture of (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (150.0 mg, 431 μmol), benzyl alcohol (446.2 μL, 4.3 mmol), and 4.0 M HCl in 1,4-dioxane (431 μL, 1.7 mmol) was stirred at room temperature overnight, then at 50° C. for 1 hour. The mixture was then concentrated under reduced pressure. 5-Hydroxy-1-methyl-1H-pyrazole-3-carboxylic acid (30.6 mg, 216 μmol) and HATU (98.4 mg, 259 mol) were stirred in DMF (0.5 mL, 5 mmol) for 10 minutes, then added to the concentrated mixture, along with DIPEA (113 μL, 647 μmol). The resulting mixture was stirred at room temperature for 2 hours and concentrated under reduced pressure. The residue was dissolved in 50% AcOH-water (5 mL), filtered, and purified by reverse phase preparative HPLC to yield the title compound (81.4 mg).

reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 431 μmol, 150.0 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | benzyl alcohol | 4.3 mmol, 446.2 μL | C(C1=CC=CC=C1)O | C7H8O
reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 1.7 mmol, 431 μL | O1CCOCC1 | C4H8O2
reactant | 5-Hydroxy-1-methyl-1H-pyrazole-3-carboxylic acid | 216 μmol, 30.6 mg | OC1=CC(=NN1C)C(=O)O | C5H6N2O3
reactant | HATU | 259 mol, 98.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 5 mmol, 0.5 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | 647 μmol, 113 μL | CCN(C(C)C)C(C)C | C8H19N
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-methyl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid Benzyl Ester | 81.4 mg | C(C1=CC=CC=C1)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=NN(C(=C1)O)C)O)=O | C29H28ClN3O5
